US07767674B2
4-(3-tert-Butoxycarbonylamino-phenoxy)-piperidin-1-yl Carboxylic Acid Benzyl Ester
To an ice-cooled solution of 1,1-(azodicarbonyl) dipiperidine (18.08 g, 71.7 mmol) in anhydrous THF (200 mL) is added via syringe tributylphosphine (17.69 mL, 79.7 mmol) and allowed to stir for 2.5 hours. To this ice-cooled mixture is added a solution of (3-hydroxy-phenyl)-carbamic acid tert-butyl ester (10.0 g, 47.8 mmol) and 4-hydroxy-piperidine-1-carboxylic acid benzyl ester (7.23 mL, 47.8 mmol) in anhydrous THF (30 mL) causing a light yellow precipitate to form. The mixture is warmed to room temperature and stirred overnight. The mixture is filtered through a fritted funnel and washed solid with THF (3×15 mL). After removal of solvent, the residue is purified on a silica gel chromatography with ethyl acetate-hexanes to provide a clear oil (11.8 g, 57.9% yield, ES+(m/z) 427.2 [M+H]).

reactant | 1,1-(azodicarbonyl) dipiperidine | 71.7 mmol, 18.08 g | C1CCN(CC1)C(=O)/N=N/C(=O)N2CCCCC2 | C12H20N4O2
reactant | tributylphosphine | 79.7 mmol, 17.69 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (3-hydroxy-phenyl)-carbamic acid tert-butyl ester | 47.8 mmol, 10.0 g | C(C)(C)(C)OC(NC1=CC(=CC=C1)O)=O | C11H15NO3
reactant | 4-hydroxy-piperidine-1-carboxylic acid benzyl ester | 47.8 mmol, 7.23 mL | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)O | C13H17NO3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-(3-tert-Butoxycarbonylamino-phenoxy)-piperidin-1-yl Carboxylic Acid Benzyl Ester | 57.9% yield | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC1=CC(=CC=C1)NC(=O)OC(C)(C)C | C24H30N2O5
